US06277778B1
Bis(2-(cyclohexyldimethylsiloxy)indenyl)ethane
To an ice-cooled solution of 2-(cyclohexyldimethylsiloxy)indene (13.62 g, 50.0 mmol) in THF (50 mL) was added dropwise n-BuLi (20.0 mL of a 2.5 M solution in hexanes, 50.0 mmol) and the reaction mixture was stirred overnight at room temperature. The resulting solution was then cooled to −80° C. and treated dropwise with a solution of dibromoethane (4.70 g, 25.0 mmol) in THF (30 mL). The reaction mixture was gradually warmed to room temperature, stirred overnight and washed with saturated ammonium chloride solution (150 mL). The organic phase was dried over sodium sulfate. Solvents were evaporated and the remaining oil was dissolved in Et2O (100 mL). Repeated crystallizations gave a total yield 4.03 g (28.2%) of the title compound as off-white crystals. The first crystalline fraction was used for spectral characterization. EIMS (calcd/found): m/e 570.3349/570.3342. 1H NMR (CDCl3, δ): 7.19-7.07 (m, 6H); 6.99 (td, 3J=7.3 Hz, 4J=1.3 Hz, 2H), 5.65 (s, 2H); 3.17 (m, 2H); 1.84-1.79 (m, AA′, 2H); 1.73 (m, 10H); 1.59-1.54 (m, BB′, 2H); 1.20 (m, 10H); 0.84 (m, 2H); 0.22 (s, 6H); 0.22 (s, 6H). 13C NMR (CDCl3, δ): 164.98; 144.47; 140.65; 126.51; 122.52; 122.33; 118.72; 104.64; 49.09; 27.72; 26.80; 26.48; 26.37; 24.29; −3.60.

reactant | 2-(cyclohexyldimethylsiloxy)indene | 50.0 mmol, 13.62 g | C1(CCCCC1)[Si](OC=1CC2=CC=CC=C2C1)(C)C | C17H24OSi
reactant | n-BuLi | [Li]CCCC
reactant | dibromoethane | 25.0 mmol, 4.70 g | BrC(C)Br | C2H4Br2
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | Bis(2-(cyclohexyldimethylsiloxy)indenyl)ethane | yield 4.03 g, 28.2% | C1(CCCCC1)[Si](OC=1C(C2=CC=CC=C2C1)C(C)C1C(=CC2=CC=CC=C12)O[Si](C1CCCCC1)(C)C)(C)C | C36H50O2Si2
